* ============================================================================
* 808 Snare — Dual Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: The 808 snare body uses TWO bridged-T Sallen-Key resonators
* (lo-body ~154 Hz + hi-body ~339 Hz) summed through an inverting mixer.
* Full ngspice simulation of the opamp feedback loops faces convergence
* challenges in the high-Q resonant regime.  This deck implements each
* resonator as a closed-loop state-space model using G-sources (same
* approach as 808_kick.spice), which converges reliably.
*
* PARAMETERS (from 808_snare.pedal — pedalkernel-pro, private):
*
*   Lo-body oscillator:
*     R1 = R2 = 220kΩ, C1 = C2 = 4.7nF
*     f0_lo = 1 / (2π·R·C) = 1 / (2π·220k·4.7n) = 153.8 Hz
*     r_crit = R1+R2+R1·(C1/C2) = 220k+220k+220k = 660kΩ
*     R_fb_lo = 1100kΩ  →  Q_lo = 1100 / (1100−660) = 2.5
*     zeta_lo = 1/(2·Q) = 0.200
*     omega0_lo = 2π·153.8 = 966.5 rad/s
*     2·zeta_lo·omega0_lo = 386.6
*
*   Hi-body oscillator:
*     R1 = R2 = 100kΩ, C1 = C2 = 4.7nF
*     f0_hi = 1 / (2π·100k·4.7n) = 338.6 Hz
*     r_crit = 100k+100k+100k = 300kΩ
*     R_fb_hi = 375kΩ  →  Q_hi = 375 / (375−300) = 5.0
*     zeta_hi = 1/(2·Q) = 0.100
*     omega0_hi = 2π·338.6 = 2127.7 rad/s
*     2·zeta_hi·omega0_hi = 425.5
*
* NOISE GAP: The real TR-808 snare mixes a noise burst (transistor noise
* source through a bandpass filter) with the tonal bodies.  This SPICE deck
* models ONLY the tonal resonators.  The noise component is a documented gap.
* The WDF model is also tonal-only, so WDF-vs-SPICE comparison is valid for
* the resonant body; a separate noise-path SPICE deck would be needed for
* full snare character validation.
*
* STATE-SPACE MODEL (per resonator):
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* OUTPUT: sum of lo and hi resonator states (v_x_lo + v_x_hi), normalized.
*
* VERIFIED: f0_lo = 153.8 Hz, f0_hi = 338.6 Hz
* ============================================================================

* ── Lo-body resonator ────────────────────────────────────────────────────────

* State variable: v_x_lo (position / oscillator voltage)
Cx_lo v_x_lo 0 1

* dv_x_lo/dt = omega0_lo * v_v_lo
Gx_lo_v 0 v_x_lo v_v_lo 0 966.5

* State variable: v_v_lo (velocity, scaled by 1/omega0)
Cv_lo v_v_lo 0 1

* −omega0_lo * v_x_lo  (restoring force)
Gv_lo_x 0 v_v_lo v_x_lo 0 -966.5

* −2·zeta_lo·omega0_lo * v_v_lo  (damping)
Gv_lo_v 0 v_v_lo v_v_lo 0 -386.6

* omega0_lo * trigger input
Gv_lo_in 0 v_v_lo v_in 0 966.5

* ── Hi-body resonator ────────────────────────────────────────────────────────

* State variable: v_x_hi (position / oscillator voltage)
Cx_hi v_x_hi 0 1

* dv_x_hi/dt = omega0_hi * v_v_hi
Gx_hi_v 0 v_x_hi v_v_hi 0 2127.7

* State variable: v_v_hi (velocity, scaled by 1/omega0)
Cv_hi v_v_hi 0 1

* −omega0_hi * v_x_hi  (restoring force)
Gv_hi_x 0 v_v_hi v_x_hi 0 -2127.7

* −2·zeta_hi·omega0_hi * v_v_hi  (damping)
Gv_hi_v 0 v_v_hi v_v_hi 0 -425.5

* omega0_hi * trigger input
Gv_hi_in 0 v_v_hi v_in 0 2127.7

* ── Output: sum of both resonator states ─────────────────────────────────────
* The physical mixer sums both bodies (inverting, but polarity is irrelevant
* for RMS/spectral comparison).  Output = v_x_lo + v_x_hi.
Bout v_out 0 V = v(v_x_lo) + v(v_x_hi)
Rload_out v_out 0 100k
